US05965559
Using an analogous procedure to that described in Example 3, N-(2-aminoethyl)-2-(2-naphthalenesulphonamido)acetamide hydrochloride salt, 1,1'-carbonyldiimidazole and 1-(4-pyridyl)piperazine were reacted to give 2-(2-naphthalenesulphonamido)-N-{2-[4-(4-pyridyl)piperazin-1-ylcarbonylamino]ethyl}acetamide in 10% yield;

reactant | N-(2-aminoethyl)-2-(2-naphthalenesulphonamido)acetamide hydrochloride salt | Cl.NCCNC(CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(4-pyridyl)piperazine | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
product | 2-(2-naphthalenesulphonamido)-N-{2-[4-(4-pyridyl)piperazin-1-ylcarbonylamino]ethyl}acetamide | 10% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC(=O)NCCNC(=O)N1CCN(CC1)C1=CC=NC=C1 | C24H28N6O4S
